US07429609B2
1-Acetyl-1H-thieno[2,3-c]pyrazole-5-carbonitrile
To a solution of 2.53 g of acetic acid (2-chloro-5-cyanothiophen-3-ylmethylene)hydrazide in 22 mL of diphenyl ether were added copper powder and potassium acetate at room temperature, and stirred at 200° C. for 6 hours. Following filtration through Celite, the filtrate was washed successively with saturated aqueous ammonium chloride and saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=1:10-1:5), to afford 215 mg of the title compound as colorless crystals.

reactant | acetic acid (2-chloro-5-cyanothiophen-3-ylmethylene)hydrazide | 2.53 g | ClC=1SC(=CC1C=NNC(C)=O)C#N | C8H6ClN3OS
reactant | potassium acetate | C(C)(=O)[O-].[K+]
solvent | diphenyl ether | 22 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
catalyst | copper | [Cu] | Cu
product | 1-Acetyl-1H-thieno[2,3-c]pyrazole-5-carbonitrile | 215 mg | C(C)(=O)N1N=CC2=C1SC(=C2)C#N | C8H5N3OS
